US08541411B2
a) methyl 1-(2,3-dichlorobenzyl)-2-(difluoromethyl)-6-morpholino-1H-benzo[d]imidazole-4-carboxylate
A mixture of methyl 2-(difluoromethyl)-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate, prepared as described in Example 68 (1000 mg, 3.2 mmol), K2CO3 (884 mg, 6.4 mmol) and 1-(bromomethyl)-2,3-dichlorobenzene (926 mg, 3.8 mmol) in DMF (30 mL) was stirred at 70° C. for 18 h. The reaction mixture was cooled to room temperature and filtered. The filtrate was poured into water (100 mL) and filtered, the filter cake was collected and purified by silica gel chromatography eluted with petroleum ether:EtOAc=1:1 to give the desired product (1.4 g, 93%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 3.16 (s, 4H), 3.74 (s, 4H), 3.92 (s, 3H), 5.77 (s, 2H), 6.21 (d, 1H, J=7.5 Hz), 7.20-7.58 (m, 5H); LC-MS: m/e=470 [M+1]+

reactant | methyl 2-(difluoromethyl)-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | FC(C1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC)F | C14H15F2N3O3
reactant | K2CO3 | 6.4 mmol, 884 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(bromomethyl)-2,3-dichlorobenzene | 3.8 mmol, 926 mg | BrCC1=C(C(=CC=C1)Cl)Cl | C7H5BrCl2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl 1-(2,3-dichlorobenzyl)-2-(difluoromethyl)-6-morpholino-1H-benzo[d]imidazole-4-carboxylate | 1.4 g, 93% | ClC1=C(CN2C(=NC3=C2C=C(C=C3C(=O)OC)N3CCOCC3)C(F)F)C=CC=C1Cl | C21H19Cl2F2N3O3
